US08211908B2
To a solution of 4.36 g of tert-butyl (1-(2-(7-methoxy-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate in 50 mL of chloroform, 10 mL of trifluoroacetic acid was added, and the mixture was stirred at room temperature for 1 hour. After the solvent was distilled off under reduced pressure, the reaction mixture was alkalified with a saturated aqueous sodium hydrogen carbonate solution, the solvent was then distilled off under reduced pressure, and the resultant residue was purified by silica gel column chromatography using silica gel; Chromatorex-NH made by Fuji Silysia Chemical Ltd., and an eluent of chloroform:methanol=10:1 to obtain 2.16 g of 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one as a yellow oily substance.

reactant | tert-butyl (1-(2-(7-methoxy-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate | 4.36 g | COC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C21H30N4O4
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one | 2.16 g | NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O | C16H22N4O2
